US04284644
A mixture of 4-hydroxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one, (0.176 g.) potassium carbonate (0.276 g.), β-diethylaminoethyl chloride (0.215 g.) and N,N-dimethylformamide (5 ml.) was stirred at room temperature for 3 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried and distilled to remove the solvent. The residue was purified by column chromatography on silica gel, using chloroform as the eluent. The product was treated with HCl-saturated diethyl ether and the resultant hydrochloride was recrystallized from ethanol-diethyl ether. By the above procedure there was obtained 4-(2-diethylaminoethyloxy)spiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one hydrochloride as colorless needles, m.p. 160°-168° C. Yield 0.221 g.

reactant | 4-hydroxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | OC1=CC=CC=2OC3(CC3)C(C21)=O | C10H8O3
reactant | potassium carbonate | 0.176 g | C([O-])([O-])=O.[K+].[K+]
reactant | β-diethylaminoethyl chloride | 0.215 g | C(C)N(CCCl)CC | C6H14ClN
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2-diethylaminoethyloxy)spiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one hydrochloride | Cl.C(C)N(CCOC1=CC=CC=2OC3(CC3)C(C21)=O)CC | InChI=1S/C16H21NO3.ClH/c1-3-17(4-2)10-11-19-12-6-5-7-13-14(12)15(18)16(20-13)8-9-16;/h5-7H,3-4,8-11H2,1-2H3;1H
